US07381719B2
6-(2,3-Dihydro-1H-isoindol-5-yloxy)-nicotinamide
Combine 6-(2-benzyl-2,3-dihydro-1H-isoindol-5-yloxy)-nicotinamide (230.0 mg, 0.67 mmol), EtOH (5 mL), and 10% Pd—C (45.0 mg) and place under a hydrogen balloon. Stir the reaction at room temperature for 168 hours at atmospheric pressure. Filter the reaction mixture through a pad of Celite® using MeOH eluent and then concentrate the filtrate under reduced pressure. Add the mixture to a 2 g SCX column, wash with MeOH, and elute using 1.0 N NH3-MeOH. After concentrating under reduced pressure, purify the mixture by flash chromatography using 10% 1.0 N NH3-MeOH/DCM eluent to afford 19.2 mg, 0.08 mmol (11% yield) of the title compound as a white solid: 1H NMR (500 MHz, CD3OD); 4.1-4.3 (4H, br m), 6.9-7.1 (3H, m), 7.3-7.4 (1H, m), 8.2-8.3 (1H, m), 8.6 (1H, s); MS m/z 254 (M−1).

reactant | 6-(2-benzyl-2,3-dihydro-1H-isoindol-5-yloxy)-nicotinamide | 0.67 mmol, 230.0 mg | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)OC1=NC=C(C(=O)N)C=C1 | C21H19N3O2
catalyst | Pd—C | 45.0 mg | [Pd] | Pd
solvent | EtOH | 5 mL | CCO | C2H6O
product | 6-(2,3-Dihydro-1H-isoindol-5-yloxy)-nicotinamide | 0.08 mmol, 19.2 mg, 11% yield | C1NCC2=CC(=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C14H13N3O2
